US06329381B1
6-Amino-9-benzyl-2-(2-aminoethyl)thiopurine
To sodium hydride (300 mg, 7.5 mmol, 60% in mineral oil) were added DMF (10 ml), 2-aminoethanethiol (620 mg, 8 mmol) and 6-amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) in order. The mixture was stirred at 100° C. for 3 hours. After addition of saturated brine the reaction mixture was extracted with chloroform and the organic layer was dried on magnesium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (10% methanol/chloroform) to give the subject compound (126 mg, yield 54%).

reactant | sodium hydride | 7.5 mmol, 300 mg | [H-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 2-aminoethanethiol | 8 mmol, 620 mg | NCCS | C2H7NS
reactant | 6-amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | brine | [Cl-].[Na+].O
product | 6-Amino-9-benzyl-2-(2-aminoethyl)thiopurine | 126 mg, yield 54% | NC1=C2N=CN(C2=NC(=N1)SCCN)CC1=CC=CC=C1 | C14H16N6S
